US04341775
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.5 g.) and conc. hydrochloric acid (1.9 g.) in methanol (35 ml.) was stirred at room temperature for 1.5 hours. After concentration, the residue was pulverized with diethyl ether to give 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 3.32 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C28H36N10O10S3
reactant | hydrochloric acid | 1.9 g | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 3.32 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | InChI=1S/C27H36N10O9S3.ClH/c1-26(2,3)45-15(38)9-44-33-16(14-12-48-23(28)30-14)19(39)31-17-20(40)37-18(22(41)42)13(10-47-21(17)37)11-49-24-32-34-35-36(24)8-7-29-25(43)46-27(4,5)6;/h12,17,21H,7-11H2,1-6H3,(H2,28,30)(H,29,43)(H,31,39)(H,41,42);1H/t17?,21-;/m1./s1
